US06906074B2
D-serine (25 g, 238 mmol) and triethylamine (35 mL, 250 mmol) were dissolved in water (400 mL), and Boc2O (50 g, 230 mmol) was added thereto and stirred at room temperature for 20 hours. The reaction mixture was washed with ethyl acetate (200 mL×2). The aqueous layer was acidified with 2 mol/L HCl to pH 2 and extracted with ethyl acetate (200 mL×5). The organic extract was dried over sodium sulfate anhydride. Sodium sulfate was filtered off and the solvent was removed by evaporation under reduced pressure to give Boc-D-Ser (44.4 g, 91%) as a colorless oil. Resulting Boc-D-Ser (44.4 g, 216 mmol) was dissolved in DMF (500 mL) and the mixture was cooled in an ice bath to 0° C. and then, NaH (18.4 g, 460 mmol) was added thereto in several portions. The mixture was stirred at 0° C. for 2 hours, and a solution of 3,5-bis(trifluoromethyl)benzyl bromide (42 mL, 230 mmol) in DMF (100 mL) was added dropwise thereto for a period of 30 min. After stirring at 0° C. for 2 hours and at room temperature for 20 hours, the reaction was stopped by adding water (1 L) thereto. The mixture was washed with hexane (250 mL×2) and acidified with 2 mol/L HCl to pH 2. After extracting with ethyl acetate (250 mL×4), the organic extract was washed with water and saturated brine in order and dried over sodium sulfate anhydride. Sodium sulfate was filtered off and the solvent was removed by evaporation under reduced pressure to give (2R)-3-(3,5-bis(trifluoromethyl)benzyloxy)-2-tert-butoxycarbonylaminopropionic acid (76.6 g, 82%) as a pale brown oil.

reactant | Boc-D-Ser | 216 mmol, 44.4 g | N([C@H](CO)C(=O)O)C(=O)OC(C)(C)C | C8H15NO5
reactant | NaH | 460 mmol, 18.4 g | [H-].[Na+]
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | 230 mmol, 42 mL | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | water | 1 L | O | H2O
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (2R)-3-(3,5-bis(trifluoromethyl)benzyloxy)-2-tert-butoxycarbonylaminopropionic acid | 76.6 g, 82% | FC(C=1C=C(COC[C@H](C(=O)O)NC(=O)OC(C)(C)C)C=C(C1)C(F)(F)F)(F)F | C17H19F6NO5
